US06548522B1
A solution of (RS)-phenyl-pyridin-2-yl-acetonitrile (0.928 g, 4.80 mmol) in 5 ml of conc. sulfuric acid was stirred overnight at room temperature. The mixture is poured on 100 g of ice, the pH is adjusted to 8-9 by addition of 28% sodium hydroxide solution and the product is extracted with ethyl acetate/water. After drying (MgSO4) and concentration, the crude material is purified by flash chromatography on silicagel using ethyl acetate as eluant to yield 0.878 g (4.14 mmol, 86%) of (RS)-phenyl-pyridin-2-yl-acetamide as a white solid, m.p. 134° C. and MS: m/e=213.2 (M+H+).

reactant | (RS)-phenyl-pyridin-2-yl-acetonitrile | 4.80 mmol, 0.928 g | C1(=CC=CC=C1)C(C#N)C1=NC=CC=C1 | C13H10N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | (RS)-phenyl-pyridin-2-yl-acetamide | 4.14 mmol, 0.878 g, 86% | C1(=CC=CC=C1)C(C(=O)N)C1=NC=CC=C1 | C13H12N2O
